US07112610B2
(S)-3-Benzyloxycarbonylamino-5,5-dimethyl-octanoic acid tert-butyl ester.
According to example 1, 2.14 g (7.9 mmol) of 2-(2,2-dimethyl-pentyl)-succinic acid 4-tert-butyl ester, 1.7 mL of DPPA, 1.1 mL of Et3N and 2.44 mL of BnOH provided 1.63 g (54.8% in two steps) of the title compound as an oil. 1HNMR (400 MHz; CDCl3): 0.78–0.89 (m, 9H), 1.10–1.30 (m, 5H), 1.36 (s, 9H), 2.39 (t, 2H, J=5 Hz), 4.95–4.05 (m, 1H), 5.00 (s, 2H), 5.09 (d, 1H, J=9.6 Hz), 7.22–7.30 (m, 5H).

reactant | 2-(2,2-dimethyl-pentyl)-succinic acid 4-tert-butyl ester | 7.9 mmol, 2.14 g | C(C)(C)(C)OC(CC(C(=O)O)CC(CCC)(C)C)=O | C15H28O4
reactant | DPPA | 1.7 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | BnOH | 2.44 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | Et3N | 1.1 mL | CCN(CC)CC | C6H15N
product | (S)-3-Benzyloxycarbonylamino-5,5-dimethyl-octanoic acid tert-butyl ester | C(C)(C)(C)OC(C[C@H](CC(CCC)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C22H35NO4
